US08207199B2
To a mixture of tert-butyl 4-oxopiperidine-1-carboxylate (10.0 g), benzylhydrazinecarboxylate (16.7 g), DCM (150 mL), and acetic acid (5.75 mL) was added sodium triacetoxyborohydride (31.9 g), followed by stirring at room temperature for 2.5 days. To the reaction liquid was added water, and the organic phase was separated. The aqueous phase was extracted with chloroform, and the combined organic phase was washed with water, a saturated aqueous sodium bicarbonate, and saturated brine in this order, and dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform/methanol=100/0 to 90/10) to obtain tert-butyl 4-{2-[(benzyloxy)carbonyl]hydrazino}piperidine-1-carboxylate (10.0 g).

reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 10.0 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | benzylhydrazinecarboxylate | 16.7 g | C(C1=CC=CC=C1)OC(=O)NN | C8H10N2O2
reactant | DCM | 150 mL | C(Cl)Cl | CH2Cl2
reactant | sodium triacetoxyborohydride | 31.9 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | water | O | H2O
solvent | acetic acid | 5.75 mL | C(C)(=O)O | C2H4O2
product | tert-butyl 4-{2-[(benzyloxy)carbonyl]hydrazino}piperidine-1-carboxylate | 10.0 g | C(C1=CC=CC=C1)OC(=O)NNC1CCN(CC1)C(=O)OC(C)(C)C | C18H27N3O4
